US07777038B2
Diethyl 2-chloro-2-[3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propyl]malonate (4.02 g) was added to a mixture of acetic acid (15 ml) and 6N hydrochloric acid (20 ml), followed by heating under reflux for 24 hours. After cooling to room temperature, water was added to the reaction mixture, followed by cooling with ice. The precipitated solid was collected by filtration, washed with water and dried to thereby obtain 2.30 g (yield: 75%) of 2-chloro-5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)valeric acid as a light yellow powder.

reactant | Diethyl 2-chloro-2-[3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propyl]malonate | 4.02 g | ClC(C(=O)OCC)(C(=O)OCC)CCCC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C21H26ClNO6
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
solvent | water | O | H2O
product | 2-chloro-5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)valeric acid | 2.30 g, yield: 75% | ClC(C(=O)O)CCCC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C16H18ClNO4
